US07157447B2
Dimethyl-carbamic acid 2-aminomethyl-5-fluoro-phenyl ester hydrochloride.
To a solution of intermediate 132, dimethyl-carbamic acid 2-cyano-5-fluoro-phenyl ester, (340 mg, 1.63 mmol) in ethyl acetate (20 mL) and ethanol (20 mL), was added conc.HCl (0.4 mL) and 10% Pd—C (100 mg) and the mixture hydrogenated in a Parr Shaker at 55 psi of hydrogen for 20 hrs. The reaction mixture was filtered through Celite, and the filtrate concentrated in vacuo to give an oil which was partitioned between ethyl acetate (10 mL) and water (10 mL). After separation, the aqueous phase was washed with additional ethyl acetate (5 mL). The combined extracts were concentrated in vacuo to dryness. The residual oil was triturated with ether to provide 145 mg (Yield 38%) of the title compound, as a tan powder: 1H NMR (CD3OD, 500 MHz) δ ppm: 3.06 (3H, s, NMe), 3.21 (3H, s, NMe), 4.11 (2H, s, NCH2), 7.13 (2H, m, Ar—Hs), 7.60 (1H, m, Ar—H); 13C NMR (CD3OD, 125.77 Hz) δ ppm: 36.03, 36.25 37.58, 110.79, 110.99, 113.26, 113.43, 122.32, 132.18, 132.25, 151.55, 154.72, 162.69, 164.67. HRMS (ESI) calcd for C10H13N2O2F (M+H) 213.1039. found 213.1039.

reactant | dimethyl-carbamic acid 2-cyano-5-fluoro-phenyl ester | 1.63 mmol, 340 mg | C(#N)C1=C(C=C(C=C1)F)OC(N(C)C)=O | C10H9FN2O2
reactant | HCl | 0.4 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | Dimethyl-carbamic acid 2-aminomethyl-5-fluoro-phenyl ester hydrochloride | 145 mg, Yield 38% | Cl.NCC1=C(C=C(C=C1)F)OC(N(C)C)=O | InChI=1S/C10H13FN2O2.ClH/c1-13(2)10(14)15-9-5-8(11)4-3-7(9)6-12;/h3-5H,6,12H2,1-2H3;1H
